US07696221B2
Step 1: 5-Ethyl-4-[(4-methoxyphenyl)sulfonyl]-2-thien-3-yl-4,5-dihydrothieno[3,2-c]isoquinoline (Compound 11a)
2-Bromo-5-ethyl-4-[(4-methoxyphenyl)sulfonyl]-4,5-dihydrothieno[3,2-c]isoquinoline (1.02 g, 2.2 mmol), 3-thiopheneboronic acid (0.37 g, 2.9 mol), potassium carbonate (0.91 g, 6.6 mol) and [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium [II] (90 mg, 0.11 mmol) were combined in 40% aqueous dimethoxyethane (11 mL) and the mixture was heated to 75° C. After 3.5 h the mixture was cooled to 23° C., filtered through Celite and washed with ethyl acetate (125 mL). The filtrate was washed with 1 N aqueous sodium hydroxide and brine (125 mL each), dried (K2CO3), and concentrated in vacuo to give the crude product (0.91 g) as a tan solid which was taken up in methylene chloride (ca. 3 mL) and pre-adsorbed on silica gel (3 g). Flash chromatography on silica gel (27 g) eluting 25-, and then 50% methylene chloride-hexane gave the title compound (0.73 g, 71%, m.p. 182-84° C.) as a white solid which was pure enough for further use.

reactant | 2-Bromo-5-ethyl-4-[(4-methoxyphenyl)sulfonyl]-4,5-dihydrothieno[3,2-c]isoquinoline | 2.2 mmol, 1.02 g | BrC1=CC=2N(C(C=3C=CC=CC3C2S1)CC)S(=O)(=O)C1=CC=C(C=C1)OC | C20H18BrNO3S2
reactant | 3-thiopheneboronic acid | 2.9 mol, 0.37 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 6.6 mol, 0.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 11 mL | C(OC)COC | C4H10O2
solvent | methylene chloride | ca. 3 mL | C(Cl)Cl | CH2Cl2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium | 0.11 mmol, 90 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Ethyl-4-[(4-methoxyphenyl)sulfonyl]-2-thien-3-yl-4,5-dihydrothieno[3,2-c]isoquinoline | 0.73 g, 71% | C(C)C1N(C2=C(C=3C=CC=CC13)SC(=C2)C2=CSC=C2)S(=O)(=O)C2=CC=C(C=C2)OC | C24H21NO3S3
